US06849633B2
To a solution of 3.0 g of 1-(2,6-dichloro-4-trifluoromethylphenyl)-5-(pyrazin-2-ylmethylamino)pyrazole dissolved in 30 ml of dried methylene chloride under a nitrogen atmosphere was added 14 ml of dried methylene chloride solution of trifluoromethylsulfenyl chloride at room temperature over about 1 hour, followed by stirring overnight. Saturated aqueous sodium hydrogen carbonate solution was added thereto, and the organic layer was washed with saturated aqueous sodium hydrogen carbonate solution and water several times. Thereafter, the layer was purified by a silica gel column chromatography. After removal of solvent, drying in vacuo afforded 3.59 g of 1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylsulfenyl-5-(pyrazin-2-ylmethylamino)pyrazole.

reactant | 1-(2,6-dichloro-4-trifluoromethylphenyl)-5-(pyrazin-2-ylmethylamino)pyrazole | 3.0 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=CC=C1NCC1=NC=CN=C1 | C15H10Cl2F3N5
reactant | trifluoromethylsulfenyl chloride | FC(SCl)(F)F | CClF3S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 14 ml | C(Cl)Cl | CH2Cl2
product | 1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylsulfenyl-5-(pyrazin-2-ylmethylamino)pyrazole | 3.59 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=CC(=C1NCC1=NC=CN=C1)SC(F)(F)F | C16H9Cl2F6N5S
